US07439232B2
Next, a mixture of 3-(4-ethylbenzoyl)-4-hydroxypyridine (2.69 g, 0.0118 mol), 20% palladium hydroxide/carbon (530 mg) and methanol (60 mL) was stirred under a hydrogen atmosphere for 18 hours. Additional 20% palladium hydroxide/carbon (300 mg) was added and stirred for 6 hours, followed by further addition of 20% palladium hydroxide/carbon (340 mg) and stirring for 15 hours. After filtration to remove the insoluble materials, the filtrate was purified by silica gel column chromatography (chloroform:methanol=10:1) to give 3-(4-ethylbenzyl)-4-hydroxypyridine (2.09 g, 83%) as a colorless amorphous substance.

reactant | 3-(4-ethylbenzoyl)-4-hydroxypyridine | 0.0118 mol, 2.69 g | C(C)C1=CC=C(C(=O)C=2C=NC=CC2O)C=C1 | C14H13NO2
catalyst | palladium hydroxide/carbon | 530 mg | [OH-].[OH-].[Pd+2]
catalyst | palladium hydroxide/carbon | 300 mg | [OH-].[OH-].[Pd+2]
catalyst | palladium hydroxide/carbon | 340 mg | [OH-].[OH-].[Pd+2]
solvent | methanol | 60 mL | CO | CH4O
product | 3-(4-ethylbenzyl)-4-hydroxypyridine | 2.09 g, 83% | C(C)C1=CC=C(CC=2C=NC=CC2O)C=C1 | C14H15NO
